US08975400B2
tert-butyl 7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)benzyl)oxy)-5-oxo-2,3 dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from (4-(4-chloro-3-(trifluoromethyl)phenoxy)phenyl)methanol, NaH and tert-butyl-7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate.

reactant | (4-(4-chloro-3-(trifluoromethyl)phenoxy)phenyl)methanol | ClC1=C(C=C(OC2=CC=C(C=C2)CO)C=C1)C(F)(F)F | C14H10ClF3O2
reactant | NaH | [H-].[Na+]
reactant | tert-butyl-7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | C(C)(C)(C)OC(=O)N1CCN2C(N=C(C=C21)Cl)=O | C11H14ClN3O3
product | tert-butyl 7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)benzyl)oxy)-5-oxo-2,3 dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | ClC1=C(C=C(OC2=CC=C(COC=3C=C4N(C(N3)=O)CCN4C(=O)OC(C)(C)C)C=C2)C=C1)C(F)(F)F | C25H23ClF3N3O5
